US06951868B2
A mixture of chromene (see: Chatterjea, J. Indian Chem. Soc. 1959, 35, 78.) (5.00 g, 37.8 mmol) and 10% palladium on activated carbon (250 mg) in glacial acetic acid (100 mL) is placed in a Parr bottle. The mixture is shaken under an atmosphere of hydrogen (45 psi) for 3 h at rt. The mixture is filtered through Celite and the filtrate is concentrated in vacuo to afford 5.00 g (98%) of chromane as light yellow oil: 1H NMR (400 MHz, CDCl3) δ 7.15-7.05, 6.89, 6.80, 4.23, 2.84, 2.08-2.02.

reactant | chromene | 37.8 mmol, 5.00 g | O1CC=CC2=CC=CC=C12 | C9H8O
catalyst | palladium on activated carbon | 250 mg | [Pd] | Pd
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | chromane | 5.00 g, 98% | O1CCCC2=CC=CC=C12 | C9H10O
